US07893267B2
25 mg (0.049 mmol) of 1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid [4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide, 0.01 mL of (0.07 mmol) benzenesulfonyl chloride, and 0.07 mL of (0.5 mmol) triethylamine in 0.5 mL DMF was stirred at room temperature for 1 h. The reaction mixture was then treated with 0.024 mL of hydrazine hydrate and diluted with water. The precipitated solid was filtered and washed with water to give 2-benzenesulfonyl-1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid [4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide (17.2 mg, 65%). LCMS: 542 (M+1)+.

reactant | 1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid [4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide | 0.049 mmol, 25 mg | N1C(=NC=C1)NC(=O)C1=CC=CC=2NC(=NC21)NC(=O)C=2C=C1CCNCC1=CC2 | C21H19N7O2
reactant | benzenesulfonyl chloride | 0.07 mmol, 0.01 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | triethylamine | 0.5 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
reactant | hydrazine hydrate | 0.024 mL | O.NN
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-benzenesulfonyl-1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid [4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide | 17.2 mg, 65% | N1C(=NC=C1)NC(=O)C1=CC=CC=2NC(=NC21)NC(=O)C=2C=C1CCN(CC1=CC2)S(=O)(=O)C2=CC=CC=C2 | C27H23N7O4S
